US05217958
A. N-[(4-Nitrophenoxy)carbonyl]-L-phenylalanine, methyl ester
To a suspension of phenylalanine methyl ester hydrochloride (2.15 g, 10.0 mmols) in methylene chloride (40 mL) at -30° C. was added N-methylmorpholine (2.2 mL, 20 mmols) followed by p-nitrophenyl chloroformate (2.01 g, 10 mmols). The resulting mixture was stirred at -30° C. for 15 minutes, then for 15 minutes at 25° C., after which it was washed sequentially with 1N hydrochloric acid and saturated aqueous sodium bicarbonate solution, dried, and concentrated. The residue (2.96 g) was crystallized from acetonitrile to give the title A compound (1.22 g), m.p. 130°-131° C., [α]D +88° (c=1.5, CHCl3). The mother liquor was chromatographed on silica gel (90 g), eluting with benzene:ethyl acetate (9:1) to give an additional 760 mg of the title A compound (total yield 1.98 g).

reactant | phenylalanine methyl ester hydrochloride | 10.0 mmols, 2.15 g | Cl.COC([C@@H](N)CC1=CC=CC=C1)=O
reactant | N-methylmorpholine | 20 mmols, 2.2 mL | CN1CCOCC1 | C5H11NO
reactant | p-nitrophenyl chloroformate | 10 mmols, 2.01 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | N-[(4-Nitrophenoxy)carbonyl]-L-phenylalanine, methyl ester | 1.22 g | [N+](=O)([O-])C1=CC=C(OC(=O)N[C@@H](CC2=CC=CC=C2)C(=O)OC)C=C1 | C17H16N2O6
